US07442449B2
2. Synthesis of N3,N4′-Di-naphthalen-1-yl-N3,N5,N5,N4′-tetraphenyl-biphenyl-3,5,4′-triamine (HM-03)
In a round-bottom 2-neck flask, 3′,5′-dibromo-biphenyl-4-yl-naphthalene-1-yl-phenyl-amine (4.7 g, 0.0089 mol), naphthalen-1-yl-phenyl-amine (5.84 g, 0.027 mol), BINAP (2.2′-Bis(diphenylphosphino)-1,1′-binaphthyl) (0.221 g, 0.36 mmol), Pd(OAc)2((palladium acetate)(0.059 g, 0.26 mmol) and NaOtBu(Sodium tert-butoxide)(3.84 g, 0.04 mol) are dissolved in toluene (100 mL) and agitation is then performed thereon for 24 hours at 100° C.

reactant | 3′,5′-dibromo-biphenyl-4-yl-naphthalene-1-yl-phenyl-amine | 0.0089 mol, 4.7 g | BrC=1C=C(C=C(C1)Br)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C28H19Br2N
reactant | naphthalen-1-yl-phenyl-amine | 0.027 mol, 5.84 g | C1(=CC=CC2=CC=CC=C12)NC1=CC=CC=C1 | C16H13N
reactant | BINAP | 0.36 mmol, 0.221 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N3,N4′-Di-naphthalen-1-yl-N3,N5,N5,N4′-tetraphenyl-biphenyl-3,5,4′-triamine | C1(=CC=CC2=CC=CC=C12)N(C=1C=C(C=C(C1)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12)C1=CC=CC=C1 | C56H41N3
